* 10x8 Two-Layer Backside PDN Model
* Total cells: 80
* Interface: 'Vout' (connect to buck converter output)

*=========== Design Parameters ===========
.param Iload=6.068 PnTSV=4u tile=400u
.param Pb=57u alpha=3 Pp=150u
.param hVia=10u Dvia=50u

*=========== Per-Layer Resistance ===========
.param Nbpr={tile/0.105u}
.param Nseg={tile/PnTSV}
.param Rbpr={50*PnTSV/12/(Nbpr*Nseg)}
.param NnTSV={(tile/PnTSV)*(tile/(2*0.105u))}
.param RnTSV={2/NnTSV}
.param Lbsm1={2*PnTSV}
.param RsegBSM1={80m*Lbsm1/0.5u}
.param NsegBSM1={(tile/PnTSV)*(tile/(2*PnTSV))}
.param Rbsm1={RsegBSM1/12/NsegBSM1}
.param RtapOne={0.5*(2u/PnTSV)**2}
.param Ntap={(tile/(2*PnTSV))**2}
.param Rtap={RtapOne/Ntap}
.param Nbump={(tile/Pb)**2}
.param Rbsm3={40m/4/Nbump}
.param Rbump={10m/Nbump}
.param wBus={Pb*(alpha+1)/alpha}
.param Nbus={tile/Pp}
.param Rrdl3={2m*tile/wBus/3/Nbus}
.param RviaOne={1.68e-8*hVia/(3.14159*(Dvia/2)**2)}
.param Rvia={RviaOne/Nbump}
.param Npillar={(tile/Pp)**2}
.param Rrdl2={2m*0.25/Npillar}
.param Rrdl1={2m*0.25/Npillar}
.param RpillarOne={1.68e-8*120u/(3.14159*(75u/2)**2)}
.param Rpillar={RpillarOne/Npillar}

*=========== Mesh Aggregate (10x8) ===========
.param Ncells=80
.param Rlat=40m
.param Rsup={(Rpillar+Rrdl1+2*Rvia+Rrdl2+Rrdl3+Rbump)*4}
.param Rvia_cell={Rtap*Ncells}

*=========== Upper Layer Horizontal Laterals ===========
RH_1_1 n_1_1_h n_1_2_h {Rlat}
RH_1_2 n_1_2_h n_1_3_h {Rlat}
RH_1_3 n_1_3_h n_1_4_h {Rlat}
RH_1_4 n_1_4_h n_1_5_h {Rlat}
RH_1_5 n_1_5_h n_1_6_h {Rlat}
RH_1_6 n_1_6_h n_1_7_h {Rlat}
RH_1_7 n_1_7_h n_1_8_h {Rlat}
RH_2_1 n_2_1_h n_2_2_h {Rlat}
RH_2_2 n_2_2_h n_2_3_h {Rlat}
RH_2_3 n_2_3_h n_2_4_h {Rlat}
RH_2_4 n_2_4_h n_2_5_h {Rlat}
RH_2_5 n_2_5_h n_2_6_h {Rlat}
RH_2_6 n_2_6_h n_2_7_h {Rlat}
RH_2_7 n_2_7_h n_2_8_h {Rlat}
RH_3_1 n_3_1_h n_3_2_h {Rlat}
RH_3_2 n_3_2_h n_3_3_h {Rlat}
RH_3_3 n_3_3_h n_3_4_h {Rlat}
RH_3_4 n_3_4_h n_3_5_h {Rlat}
RH_3_5 n_3_5_h n_3_6_h {Rlat}
RH_3_6 n_3_6_h n_3_7_h {Rlat}
RH_3_7 n_3_7_h n_3_8_h {Rlat}
RH_4_1 n_4_1_h n_4_2_h {Rlat}
RH_4_2 n_4_2_h n_4_3_h {Rlat}
RH_4_3 n_4_3_h n_4_4_h {Rlat}
RH_4_4 n_4_4_h n_4_5_h {Rlat}
RH_4_5 n_4_5_h n_4_6_h {Rlat}
RH_4_6 n_4_6_h n_4_7_h {Rlat}
RH_4_7 n_4_7_h n_4_8_h {Rlat}
RH_5_1 n_5_1_h n_5_2_h {Rlat}
RH_5_2 n_5_2_h n_5_3_h {Rlat}
RH_5_3 n_5_3_h n_5_4_h {Rlat}
RH_5_4 n_5_4_h n_5_5_h {Rlat}
RH_5_5 n_5_5_h n_5_6_h {Rlat}
RH_5_6 n_5_6_h n_5_7_h {Rlat}
RH_5_7 n_5_7_h n_5_8_h {Rlat}
RH_6_1 n_6_1_h n_6_2_h {Rlat}
RH_6_2 n_6_2_h n_6_3_h {Rlat}
RH_6_3 n_6_3_h n_6_4_h {Rlat}
RH_6_4 n_6_4_h n_6_5_h {Rlat}
RH_6_5 n_6_5_h n_6_6_h {Rlat}
RH_6_6 n_6_6_h n_6_7_h {Rlat}
RH_6_7 n_6_7_h n_6_8_h {Rlat}
RH_7_1 n_7_1_h n_7_2_h {Rlat}
RH_7_2 n_7_2_h n_7_3_h {Rlat}
RH_7_3 n_7_3_h n_7_4_h {Rlat}
RH_7_4 n_7_4_h n_7_5_h {Rlat}
RH_7_5 n_7_5_h n_7_6_h {Rlat}
RH_7_6 n_7_6_h n_7_7_h {Rlat}
RH_7_7 n_7_7_h n_7_8_h {Rlat}
RH_8_1 n_8_1_h n_8_2_h {Rlat}
RH_8_2 n_8_2_h n_8_3_h {Rlat}
RH_8_3 n_8_3_h n_8_4_h {Rlat}
RH_8_4 n_8_4_h n_8_5_h {Rlat}
RH_8_5 n_8_5_h n_8_6_h {Rlat}
RH_8_6 n_8_6_h n_8_7_h {Rlat}
RH_8_7 n_8_7_h n_8_8_h {Rlat}
RH_9_1 n_9_1_h n_9_2_h {Rlat}
RH_9_2 n_9_2_h n_9_3_h {Rlat}
RH_9_3 n_9_3_h n_9_4_h {Rlat}
RH_9_4 n_9_4_h n_9_5_h {Rlat}
RH_9_5 n_9_5_h n_9_6_h {Rlat}
RH_9_6 n_9_6_h n_9_7_h {Rlat}
RH_9_7 n_9_7_h n_9_8_h {Rlat}
RH_10_1 n_10_1_h n_10_2_h {Rlat}
RH_10_2 n_10_2_h n_10_3_h {Rlat}
RH_10_3 n_10_3_h n_10_4_h {Rlat}
RH_10_4 n_10_4_h n_10_5_h {Rlat}
RH_10_5 n_10_5_h n_10_6_h {Rlat}
RH_10_6 n_10_6_h n_10_7_h {Rlat}
RH_10_7 n_10_7_h n_10_8_h {Rlat}

*=========== Lower Layer Vertical Laterals ===========
RV_1_1 n_1_1 n_2_1 {Rlat}
RV_1_2 n_1_2 n_2_2 {Rlat}
RV_1_3 n_1_3 n_2_3 {Rlat}
RV_1_4 n_1_4 n_2_4 {Rlat}
RV_1_5 n_1_5 n_2_5 {Rlat}
RV_1_6 n_1_6 n_2_6 {Rlat}
RV_1_7 n_1_7 n_2_7 {Rlat}
RV_1_8 n_1_8 n_2_8 {Rlat}
RV_2_1 n_2_1 n_3_1 {Rlat}
RV_2_2 n_2_2 n_3_2 {Rlat}
RV_2_3 n_2_3 n_3_3 {Rlat}
RV_2_4 n_2_4 n_3_4 {Rlat}
RV_2_5 n_2_5 n_3_5 {Rlat}
RV_2_6 n_2_6 n_3_6 {Rlat}
RV_2_7 n_2_7 n_3_7 {Rlat}
RV_2_8 n_2_8 n_3_8 {Rlat}
RV_3_1 n_3_1 n_4_1 {Rlat}
RV_3_2 n_3_2 n_4_2 {Rlat}
RV_3_3 n_3_3 n_4_3 {Rlat}
RV_3_4 n_3_4 n_4_4 {Rlat}
RV_3_5 n_3_5 n_4_5 {Rlat}
RV_3_6 n_3_6 n_4_6 {Rlat}
RV_3_7 n_3_7 n_4_7 {Rlat}
RV_3_8 n_3_8 n_4_8 {Rlat}
RV_4_1 n_4_1 n_5_1 {Rlat}
RV_4_2 n_4_2 n_5_2 {Rlat}
RV_4_3 n_4_3 n_5_3 {Rlat}
RV_4_4 n_4_4 n_5_4 {Rlat}
RV_4_5 n_4_5 n_5_5 {Rlat}
RV_4_6 n_4_6 n_5_6 {Rlat}
RV_4_7 n_4_7 n_5_7 {Rlat}
RV_4_8 n_4_8 n_5_8 {Rlat}
RV_5_1 n_5_1 n_6_1 {Rlat}
RV_5_2 n_5_2 n_6_2 {Rlat}
RV_5_3 n_5_3 n_6_3 {Rlat}
RV_5_4 n_5_4 n_6_4 {Rlat}
RV_5_5 n_5_5 n_6_5 {Rlat}
RV_5_6 n_5_6 n_6_6 {Rlat}
RV_5_7 n_5_7 n_6_7 {Rlat}
RV_5_8 n_5_8 n_6_8 {Rlat}
RV_6_1 n_6_1 n_7_1 {Rlat}
RV_6_2 n_6_2 n_7_2 {Rlat}
RV_6_3 n_6_3 n_7_3 {Rlat}
RV_6_4 n_6_4 n_7_4 {Rlat}
RV_6_5 n_6_5 n_7_5 {Rlat}
RV_6_6 n_6_6 n_7_6 {Rlat}
RV_6_7 n_6_7 n_7_7 {Rlat}
RV_6_8 n_6_8 n_7_8 {Rlat}
RV_7_1 n_7_1 n_8_1 {Rlat}
RV_7_2 n_7_2 n_8_2 {Rlat}
RV_7_3 n_7_3 n_8_3 {Rlat}
RV_7_4 n_7_4 n_8_4 {Rlat}
RV_7_5 n_7_5 n_8_5 {Rlat}
RV_7_6 n_7_6 n_8_6 {Rlat}
RV_7_7 n_7_7 n_8_7 {Rlat}
RV_7_8 n_7_8 n_8_8 {Rlat}
RV_8_1 n_8_1 n_9_1 {Rlat}
RV_8_2 n_8_2 n_9_2 {Rlat}
RV_8_3 n_8_3 n_9_3 {Rlat}
RV_8_4 n_8_4 n_9_4 {Rlat}
RV_8_5 n_8_5 n_9_5 {Rlat}
RV_8_6 n_8_6 n_9_6 {Rlat}
RV_8_7 n_8_7 n_9_7 {Rlat}
RV_8_8 n_8_8 n_9_8 {Rlat}
RV_9_1 n_9_1 n_10_1 {Rlat}
RV_9_2 n_9_2 n_10_2 {Rlat}
RV_9_3 n_9_3 n_10_3 {Rlat}
RV_9_4 n_9_4 n_10_4 {Rlat}
RV_9_5 n_9_5 n_10_5 {Rlat}
RV_9_6 n_9_6 n_10_6 {Rlat}
RV_9_7 n_9_7 n_10_7 {Rlat}
RV_9_8 n_9_8 n_10_8 {Rlat}

*=========== Vias (Upper <-> Lower) ===========
RVia_1_1 n_1_1_h n_1_1 {Rvia_cell}
RVia_1_2 n_1_2_h n_1_2 {Rvia_cell}
RVia_1_3 n_1_3_h n_1_3 {Rvia_cell}
RVia_1_4 n_1_4_h n_1_4 {Rvia_cell}
RVia_1_5 n_1_5_h n_1_5 {Rvia_cell}
RVia_1_6 n_1_6_h n_1_6 {Rvia_cell}
RVia_1_7 n_1_7_h n_1_7 {Rvia_cell}
RVia_1_8 n_1_8_h n_1_8 {Rvia_cell}
RVia_2_1 n_2_1_h n_2_1 {Rvia_cell}
RVia_2_2 n_2_2_h n_2_2 {Rvia_cell}
RVia_2_3 n_2_3_h n_2_3 {Rvia_cell}
RVia_2_4 n_2_4_h n_2_4 {Rvia_cell}
RVia_2_5 n_2_5_h n_2_5 {Rvia_cell}
RVia_2_6 n_2_6_h n_2_6 {Rvia_cell}
RVia_2_7 n_2_7_h n_2_7 {Rvia_cell}
RVia_2_8 n_2_8_h n_2_8 {Rvia_cell}
RVia_3_1 n_3_1_h n_3_1 {Rvia_cell}
RVia_3_2 n_3_2_h n_3_2 {Rvia_cell}
RVia_3_3 n_3_3_h n_3_3 {Rvia_cell}
RVia_3_4 n_3_4_h n_3_4 {Rvia_cell}
RVia_3_5 n_3_5_h n_3_5 {Rvia_cell}
RVia_3_6 n_3_6_h n_3_6 {Rvia_cell}
RVia_3_7 n_3_7_h n_3_7 {Rvia_cell}
RVia_3_8 n_3_8_h n_3_8 {Rvia_cell}
RVia_4_1 n_4_1_h n_4_1 {Rvia_cell}
RVia_4_2 n_4_2_h n_4_2 {Rvia_cell}
RVia_4_3 n_4_3_h n_4_3 {Rvia_cell}
RVia_4_4 n_4_4_h n_4_4 {Rvia_cell}
RVia_4_5 n_4_5_h n_4_5 {Rvia_cell}
RVia_4_6 n_4_6_h n_4_6 {Rvia_cell}
RVia_4_7 n_4_7_h n_4_7 {Rvia_cell}
RVia_4_8 n_4_8_h n_4_8 {Rvia_cell}
RVia_5_1 n_5_1_h n_5_1 {Rvia_cell}
RVia_5_2 n_5_2_h n_5_2 {Rvia_cell}
RVia_5_3 n_5_3_h n_5_3 {Rvia_cell}
RVia_5_4 n_5_4_h n_5_4 {Rvia_cell}
RVia_5_5 n_5_5_h n_5_5 {Rvia_cell}
RVia_5_6 n_5_6_h n_5_6 {Rvia_cell}
RVia_5_7 n_5_7_h n_5_7 {Rvia_cell}
RVia_5_8 n_5_8_h n_5_8 {Rvia_cell}
RVia_6_1 n_6_1_h n_6_1 {Rvia_cell}
RVia_6_2 n_6_2_h n_6_2 {Rvia_cell}
RVia_6_3 n_6_3_h n_6_3 {Rvia_cell}
RVia_6_4 n_6_4_h n_6_4 {Rvia_cell}
RVia_6_5 n_6_5_h n_6_5 {Rvia_cell}
RVia_6_6 n_6_6_h n_6_6 {Rvia_cell}
RVia_6_7 n_6_7_h n_6_7 {Rvia_cell}
RVia_6_8 n_6_8_h n_6_8 {Rvia_cell}
RVia_7_1 n_7_1_h n_7_1 {Rvia_cell}
RVia_7_2 n_7_2_h n_7_2 {Rvia_cell}
RVia_7_3 n_7_3_h n_7_3 {Rvia_cell}
RVia_7_4 n_7_4_h n_7_4 {Rvia_cell}
RVia_7_5 n_7_5_h n_7_5 {Rvia_cell}
RVia_7_6 n_7_6_h n_7_6 {Rvia_cell}
RVia_7_7 n_7_7_h n_7_7 {Rvia_cell}
RVia_7_8 n_7_8_h n_7_8 {Rvia_cell}
RVia_8_1 n_8_1_h n_8_1 {Rvia_cell}
RVia_8_2 n_8_2_h n_8_2 {Rvia_cell}
RVia_8_3 n_8_3_h n_8_3 {Rvia_cell}
RVia_8_4 n_8_4_h n_8_4 {Rvia_cell}
RVia_8_5 n_8_5_h n_8_5 {Rvia_cell}
RVia_8_6 n_8_6_h n_8_6 {Rvia_cell}
RVia_8_7 n_8_7_h n_8_7 {Rvia_cell}
RVia_8_8 n_8_8_h n_8_8 {Rvia_cell}
RVia_9_1 n_9_1_h n_9_1 {Rvia_cell}
RVia_9_2 n_9_2_h n_9_2 {Rvia_cell}
RVia_9_3 n_9_3_h n_9_3 {Rvia_cell}
RVia_9_4 n_9_4_h n_9_4 {Rvia_cell}
RVia_9_5 n_9_5_h n_9_5 {Rvia_cell}
RVia_9_6 n_9_6_h n_9_6 {Rvia_cell}
RVia_9_7 n_9_7_h n_9_7 {Rvia_cell}
RVia_9_8 n_9_8_h n_9_8 {Rvia_cell}
RVia_10_1 n_10_1_h n_10_1 {Rvia_cell}
RVia_10_2 n_10_2_h n_10_2 {Rvia_cell}
RVia_10_3 n_10_3_h n_10_3 {Rvia_cell}
RVia_10_4 n_10_4_h n_10_4 {Rvia_cell}
RVia_10_5 n_10_5_h n_10_5 {Rvia_cell}
RVia_10_6 n_10_6_h n_10_6 {Rvia_cell}
RVia_10_7 n_10_7_h n_10_7 {Rvia_cell}
RVia_10_8 n_10_8_h n_10_8 {Rvia_cell}

*=========== Current Source Loads ===========
Ic_1_1 n_1_1 0 {Iload/Ncells}
Ic_1_2 n_1_2 0 {Iload/Ncells}
Ic_1_3 n_1_3 0 {Iload/Ncells}
Ic_1_4 n_1_4 0 {Iload/Ncells}
Ic_1_5 n_1_5 0 {Iload/Ncells}
Ic_1_6 n_1_6 0 {Iload/Ncells}
Ic_1_7 n_1_7 0 {Iload/Ncells}
Ic_1_8 n_1_8 0 {Iload/Ncells}
Ic_2_1 n_2_1 0 {Iload/Ncells}
Ic_2_2 n_2_2 0 {Iload/Ncells}
Ic_2_3 n_2_3 0 {Iload/Ncells}
Ic_2_4 n_2_4 0 {Iload/Ncells}
Ic_2_5 n_2_5 0 {Iload/Ncells}
Ic_2_6 n_2_6 0 {Iload/Ncells}
Ic_2_7 n_2_7 0 {Iload/Ncells}
Ic_2_8 n_2_8 0 {Iload/Ncells}
Ic_3_1 n_3_1 0 {Iload/Ncells}
Ic_3_2 n_3_2 0 {Iload/Ncells}
Ic_3_3 n_3_3 0 {Iload/Ncells}
Ic_3_4 n_3_4 0 {Iload/Ncells}
Ic_3_5 n_3_5 0 {Iload/Ncells}
Ic_3_6 n_3_6 0 {Iload/Ncells}
Ic_3_7 n_3_7 0 {Iload/Ncells}
Ic_3_8 n_3_8 0 {Iload/Ncells}
Ic_4_1 n_4_1 0 {Iload/Ncells}
Ic_4_2 n_4_2 0 {Iload/Ncells}
Ic_4_3 n_4_3 0 {Iload/Ncells}
Ic_4_4 n_4_4 0 {Iload/Ncells}
Ic_4_5 n_4_5 0 {Iload/Ncells}
Ic_4_6 n_4_6 0 {Iload/Ncells}
Ic_4_7 n_4_7 0 {Iload/Ncells}
Ic_4_8 n_4_8 0 {Iload/Ncells}
Ic_5_1 n_5_1 0 {Iload/Ncells}
Ic_5_2 n_5_2 0 {Iload/Ncells}
Ic_5_3 n_5_3 0 {Iload/Ncells}
Ic_5_4 n_5_4 0 {Iload/Ncells}
Ic_5_5 n_5_5 0 {Iload/Ncells}
Ic_5_6 n_5_6 0 {Iload/Ncells}
Ic_5_7 n_5_7 0 {Iload/Ncells}
Ic_5_8 n_5_8 0 {Iload/Ncells}
Ic_6_1 n_6_1 0 {Iload/Ncells}
Ic_6_2 n_6_2 0 {Iload/Ncells}
Ic_6_3 n_6_3 0 {Iload/Ncells}
Ic_6_4 n_6_4 0 {Iload/Ncells}
Ic_6_5 n_6_5 0 {Iload/Ncells}
Ic_6_6 n_6_6 0 {Iload/Ncells}
Ic_6_7 n_6_7 0 {Iload/Ncells}
Ic_6_8 n_6_8 0 {Iload/Ncells}
Ic_7_1 n_7_1 0 {Iload/Ncells}
Ic_7_2 n_7_2 0 {Iload/Ncells}
Ic_7_3 n_7_3 0 {Iload/Ncells}
Ic_7_4 n_7_4 0 {Iload/Ncells}
Ic_7_5 n_7_5 0 {Iload/Ncells}
Ic_7_6 n_7_6 0 {Iload/Ncells}
Ic_7_7 n_7_7 0 {Iload/Ncells}
Ic_7_8 n_7_8 0 {Iload/Ncells}
Ic_8_1 n_8_1 0 {Iload/Ncells}
Ic_8_2 n_8_2 0 {Iload/Ncells}
Ic_8_3 n_8_3 0 {Iload/Ncells}
Ic_8_4 n_8_4 0 {Iload/Ncells}
Ic_8_5 n_8_5 0 {Iload/Ncells}
Ic_8_6 n_8_6 0 {Iload/Ncells}
Ic_8_7 n_8_7 0 {Iload/Ncells}
Ic_8_8 n_8_8 0 {Iload/Ncells}
Ic_9_1 n_9_1 0 {Iload/Ncells}
Ic_9_2 n_9_2 0 {Iload/Ncells}
Ic_9_3 n_9_3 0 {Iload/Ncells}
Ic_9_4 n_9_4 0 {Iload/Ncells}
Ic_9_5 n_9_5 0 {Iload/Ncells}
Ic_9_6 n_9_6 0 {Iload/Ncells}
Ic_9_7 n_9_7 0 {Iload/Ncells}
Ic_9_8 n_9_8 0 {Iload/Ncells}
Ic_10_1 n_10_1 0 {Iload/Ncells}
Ic_10_2 n_10_2 0 {Iload/Ncells}
Ic_10_3 n_10_3 0 {Iload/Ncells}
Ic_10_4 n_10_4 0 {Iload/Ncells}
Ic_10_5 n_10_5 0 {Iload/Ncells}
Ic_10_6 n_10_6 0 {Iload/Ncells}
Ic_10_7 n_10_7 0 {Iload/Ncells}
Ic_10_8 n_10_8 0 {Iload/Ncells}

*=========== Supply Stacks (4 corners) ===========
RSup_1 Vout n_1_1_h {Rsup}
RSup_2 Vout n_1_8_h {Rsup}
RSup_3 Vout n_10_1_h {Rsup}
RSup_4 Vout n_10_8_h {Rsup}

